US06780950B2
Synthesis of 9-Trimethylsilyl Ethynyl Anthracene [M-25]
Under an argon atmosphere, 40 g (0.155 mol) of 9-bromoanthracene, 3.3 g (4.6 mmol) of bis(triphenylphosphine)palladium(II) dichloride and 0.87 g (3 mmol) of copper Iodide were dissolved in 500 ml of diisopropylamine in a 1 L 3-necked flask equipped with a stirrer, thermometer and reflux condenser. 23 g (0.233 mol) of trimethylsilyl acetylene was then slowly dropped into the resulting mixture at room temperature. The reaction mixture was slowly heated to 80° C. and refluxed for 12 hours. After the reaction was completed, the reaction mixture was cooled down to room temperature, and then the precipitated salt was filtered off. The solvent was removed under a reduced pressure, and then the residue was dissolved in methylene chloride. The organic layer was washed with water several times and then dried with anhydrous magnesium sulfate. The solvent was removed to obtain orange-colored liquid, which was purified by silica gel column chromatography using hexane as an eluent, and then recrystallized from ethanol to give yellow crystal. The yellow crystal was recovered and sufficiently dried in a vacuum oven at 40° C., to give 32 g (83.3% yield) of the desired product having a melting point of 66-68° C.

reactant | 9-bromoanthracene | 0.155 mol, 40 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | trimethylsilyl acetylene | 0.233 mol, 23 g | C[Si](C)(C)C#C | C5H10Si
solvent | diisopropylamine | 500 ml | C(C)(C)NC(C)C | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 4.6 mmol, 3.3 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper Iodide | 3 mmol, 0.87 g | [Cu](I)I
product | 9-Trimethylsilyl Ethynyl Anthracene | 32 g, 83.3% yield | C[Si](C=1C2=CC=CC=C2C=C2C=CC=C(C12)C#C)(C)C | C19H18Si
